US05703052
(3β,5α,12β,25R)-3-(t-butyldimethylsilyloxy)spirostan-12-ol-11-one:
Using the procedure described in J. Am. Chem. Soc., 1972,94, 6190, (3β,5α,12β,25R)-spirostan-3,12-diol-11-one (see preparation G6) was silylated with t-butyldimethylchlorosilane and imidazole in DMF to give the title compound.

reactant | (3β,5α,12β,25R)-spirostan-3,12-diol-11-one | C[C@H]1[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]5C[C@H](CC[C@]5(C)[C@H]4C([C@H]([C@]23C)O)=O)O)O[C@]12CC[C@@H](C)CO2 | C27H42O5
reactant | t-butyldimethylchlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | (3β,5α,12β,25R)-3-(t-butyldimethylsilyloxy)spirostan-12-ol-11-one | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H](C([C@@H]3[C@]2(CC1)C)=O)O)C | C33H56O5Si
